US06093732
Sodium hydroxide (6.22 g) is added to a solution of p-nitrophenol (21.45 g) in DMF (300 mL) and stirred until the reagents are fully dissolved. After a dropwise addition of 2-chloroethanol (10.66 ml), the reaction mixture is heated to 100° C. for 72 hours. After filtering and evaporating the solvent under reduced pressure, the resulting oil is recrystallized in a methanol/water mixture and filtered to afford 21.62 g (92%) of 2-(4-nitrophenoxy)-1-ethanol. A mixture of 2-(4-nitrophenoxy)-1-ethanol (6.17 g) and palladium on carbon (0.08 g) in EtOH (120 mL) is hydrogenated in a 500 mL Parr jar at 33 psi for 18 hrs. Vacuum filtration through celite and evaporation under reduced pressure affords 5.00 g (96%) of 2-(4-aminophenoxy)-1-ethanol. This material is combined with diethyl ethoxymethylenemalonate (7 mL) and heated to 130° C. for 1 hr in a round bottom flask under a gentle stream of nitrogen. The mixture is cooled, diluted with 1:1 cyclohexane/toluene (20 mL), and filtered to afford 9.1 g (86%) of diethyl 2-{[4-(2-hydroxyethoxy)anilinorlmethylene}-malonate. A solution the resulting malonate (8.59 g) in acetic acid (15 mL) and acetic anhydride (4 mL) is heated to 60° C. for 36 hrs. The reaction mixture is diluted with water, extracted with ethyl acetate and washed with saturated sodium bicarbonate. Evaporation under reduced pressure leaves a brown oil which is recrystallized from 1:1 methanol/water and filtered to afford 7.09 g (73%) diethyl 2-({4-[2-(acetyloxy)ethoxy]anilino}methylene)malonate. Diethyl 2-({4-[2-(acetyloxy)ethoxy]anilino}methylene)malonate (6.55 g) is dissolved in diphenyl ether (75 mL) and refluxed at 250° C. for 1 hr. After the mixture is cooled and diluted with 250 mL toluene, the resulting precipitate is collected by filtration, washed with toluene and recrystallized from aqueous acetic acid. This procedure yielded 0.50 g (9%) of ethyl 6-[2-(acetyloxy)ethoxy]-4-hydroxy-3-quinolinecarboxylate. The resulting carboxylate ester (0.49 g) and 4-chlorobenzylamine (0.90 mL) are heated to 175° C. for 2 hrs. After the reaction mixture is cooled and diluted with xylenes, the dark solid is filtered. Recrystallization from acetic acid and water affords 0.150 g (26%) of the title compound as a beige solid.

reactant | Diethyl 2-({4-[2-(acetyloxy)ethoxy]anilino}methylene)malonate | 6.55 g | C(C)(=O)OCCOC1=CC=C(NC=C(C(=O)OCC)C(=O)OCC)C=C1 | C18H23NO7
solvent | diphenyl ether | 75 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 6-[2-(acetyloxy)ethoxy]-4-hydroxy-3-quinolinecarboxylate | 0.50 g, 9% | C(C)(=O)OCCOC=1C=C2C(=C(C=NC2=CC1)C(=O)OCC)O | C16H17NO6
